US04978761
In methylene chloride (100 ml) was dissolved 4-acetoxy-2-(2-methyl-2-propenyl)-3,5,6-trimethylphenol [30 g (40.3 mmol)]. To the solution was added at 0° C., in limited amounts, m-chloroperbenzoic acid [16.7 g (67.8 mmol)]. The reaction mixture was stirred for one hour, and there was added triethylamine (30 ml), followed by stirring for further one hour. The reaction mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate, and then dried, followed by distilling off the solvent. The residue was crystallized from isopropyl ether-hexane to obtain the desired 5-acetoxy-2-hydroxymethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran [9.3 g (yield 87.4%, m.p. 98°-99° C.)].

reactant | 4-acetoxy-2-(2-methyl-2-propenyl)-3,5,6-trimethylphenol | 40.3 mmol, 30 g | C(C)(=O)OC1=C(C(=C(C(=C1C)C)O)CC(=C)C)C | C15H20O3
reactant | m-chloroperbenzoic acid | 67.8 mmol, 16.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-acetoxy-2-hydroxymethyl-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran | 9.3 g, yield 87.4% | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)CO)C1C)C)C | C15H20O4
